US06831083B2
Synthesis of 1-nicotinoyl-3-phenyl-2-pyrazoline
3-Phenyl-2-pyrazoline (2.9 g) synthesized in Reference Example 2 was dissolved in chloroform (20 ml). Thereto were added nicotinic acid chloride hydrochloride (4 g) and triethylamine (6 ml) with ice-cooling. Stirring was conducted for 30 minutes at room temperature. The reaction mixture was washed with water and concentrated under vacuum. The residue was purified by silica gel column chromatography (methanol:chloroform=1/100) to obtain 3.7 g of a title compound.

reactant | 3-Phenyl-2-pyrazoline | 2.9 g | C1(=CC=CC=C1)C1=NNCC1 | C9H10N2
reactant | nicotinic acid chloride hydrochloride | 4 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-nicotinoyl-3-phenyl-2-pyrazoline | 3.7 g | C(C1=CN=CC=C1)(=O)N1N=C(CC1)C1=CC=CC=C1 | C15H13N3O
